US09145392B2
[4-(4-Amino-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-5-yl)-phenyl]-methanol (“14”)
The title compound was prepared in an analogous manner as 5-(4-Fluoro-phenyl)-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamine using 4-(hydroxymethyl)benzeneboronic acid pinacol ester instead of 4-fluorophenylboronic acid. LC-MS: (M+1=527, obsd.=527).

reactant | 5-(4-Fluoro-phenyl)-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamine | FC1=CC=C(C=C1)C=1C(=NC=NC1N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)C)N | C26H23F5N6
reactant | 4-(hydroxymethyl)benzeneboronic acid pinacol ester | OCC1=CC=C(C=C1)B1OC(C)(C)C(C)(C)O1 | C13H19BO3
product | [4-(4-Amino-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-5-yl)-phenyl]-methanol | NC1=NC=NC(=C1C1=CC=C(C=C1)CO)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)C | C27H26F4N6O
